plaintext
* NMOS Transistors
M1 3 5 2 2 NMOS
M2 6 8 4 4 NMOS

* Resistors
R1 3 5 1k
R2 4 7 500

* Voltage Source
VDD 5 0 1.8V

* Voltage Input and Output
Vin 8 0 DC 0V
Vout 6 0

.END